* C:\Users\senba\Desktop\FOSSEE\eSim\library\SubcircuitLibrary\74HC157\74HC157.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 10/18/25 19:10:56

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U1-Pad1_ Net-_U2-Pad2_ d_inverter		
U3  Net-_U2-Pad2_ Net-_U1-Pad2_ Net-_U11-Pad1_ d_nor		
U4  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U10-Pad1_ d_nor		
U5  Net-_U11-Pad1_ Net-_U1-Pad3_ Net-_U13-Pad1_ d_and		
U6  Net-_U10-Pad1_ Net-_U1-Pad4_ Net-_U13-Pad2_ d_and		
U7  Net-_U11-Pad1_ Net-_U1-Pad5_ Net-_U14-Pad1_ d_and		
U8  Net-_U10-Pad1_ Net-_U1-Pad6_ Net-_U14-Pad2_ d_and		
U9  Net-_U11-Pad1_ Net-_U1-Pad7_ Net-_U15-Pad1_ d_and		
U10  Net-_U10-Pad1_ Net-_U1-Pad8_ Net-_U10-Pad3_ d_and		
U11  Net-_U11-Pad1_ Net-_U1-Pad9_ Net-_U11-Pad3_ d_and		
U12  Net-_U10-Pad1_ Net-_U1-Pad10_ Net-_U12-Pad3_ d_and		
U13  Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_U13-Pad3_ d_nor		
U14  Net-_U14-Pad1_ Net-_U14-Pad2_ Net-_U14-Pad3_ d_nor		
U15  Net-_U15-Pad1_ Net-_U10-Pad3_ Net-_U15-Pad3_ d_nor		
U16  Net-_U11-Pad3_ Net-_U12-Pad3_ Net-_U16-Pad3_ d_nor		
U17  Net-_U13-Pad3_ Net-_U1-Pad11_ d_inverter		
U18  Net-_U14-Pad3_ Net-_U1-Pad12_ d_inverter		
U19  Net-_U15-Pad3_ Net-_U1-Pad13_ d_inverter		
U20  Net-_U16-Pad3_ Net-_U1-Pad14_ d_inverter		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ PORT		

.end
.title KiCad schematic
U1 /1 /2 /3 /4 /5 /6 /7 unconnected-_U1-Pad8_ /9 /10 /11 /12 /13 /14 /15 unconnected-_U1-Pad16_ PORT
U16 /15 Net-_U16-Pad2_ d_inverter
U17 Net-_U13-Pad2_ Net-_U17-Pad2_ d_inverter
U15 /1 Net-_U15-Pad2_ d_inverter
U14 /15 Net-_U14-Pad2_ d_inverter
U19 Net-_U16-Pad2_ Net-_U17-Pad2_ Net-_U19-Pad3_ d_and
U18 Net-_U14-Pad2_ Net-_U15-Pad2_ Net-_U18-Pad3_ d_and
U13 /1 Net-_U13-Pad2_ d_inverter
U22 /5 Net-_U18-Pad3_ Net-_U22-Pad3_ d_and
U23 /6 Net-_U19-Pad3_ Net-_U23-Pad3_ d_and
U24 /11 Net-_U18-Pad3_ Net-_U24-Pad3_ d_and
U25 /10 Net-_U19-Pad3_ Net-_U25-Pad3_ d_and
U29 Net-_U22-Pad3_ Net-_U23-Pad3_ /7 d_or
U21 /3 Net-_U19-Pad3_ Net-_U21-Pad3_ d_and
U28 Net-_U20-Pad3_ Net-_U21-Pad3_ /4 d_or
U20 /2 Net-_U18-Pad3_ Net-_U20-Pad3_ d_and
U31 Net-_U26-Pad3_ Net-_U27-Pad3_ /12 d_or
U26 /14 Net-_U18-Pad3_ Net-_U26-Pad3_ d_and
U27 /13 Net-_U19-Pad3_ Net-_U27-Pad3_ d_and
U30 Net-_U24-Pad3_ Net-_U25-Pad3_ /9 d_or
.end
